### PR TITLE
feat(Computability): define oracle computability and Turing degrees

### PR DESCRIPTION
**Pull request by tannerduve**
Some initial definitions introducing a model of oracle computability via partial recursive functions, define Turing reducibility and equivalence, and prove that Turing equivalence is an equivalence relation. Define the type of Turing degrees as equivalence classes under Turing equivalence. This PR includes:

- `RecursiveIn g f`: An inductive definition representing that a partial function `f` is recursive in oracle `g`.
- `turing_reducible`: A relation defining Turing reducibility between partial functions.
- `turing_equivalent`: A relation defining Turing equivalence between partial functions.
- `TuringDegree`: The type of Turing degrees, defined as equivalence classes under `turing_equivalent`.
- A proof that TuringDegree is a partial order when reducibility is lifted to degrees

### Implementation Notes

The type `RecursiveIn g f` is inductively defined to include basic functions such as `zero`, `succ`, projections, and the oracle `g`, and is closed under pairing, composition, primitive recursion, and μ-recursion. The `join` operation combines two partial functions by mapping even and odd numbers to the respective functions.

### Notation

- `f ≤ᵀ g`: `f` is Turing reducible to `g`.
- `f ≡ᵀ g`: `f` is Turing equivalent to `g`.
- `f ⊔ g`: The join of partial functions `f` and `g`.

## In Progress
The work here is just the basic definitions for the theory being developed. Some current in-progress work involves proving the upper-semilattice structure of Turing degrees, proving the existence of a _relativized_ universal partial recursive function, and proving properties of the jump operator.

### References

* [Carneiro2018] Carneiro, Mario. *Formalizing Computability Theory via Partial Recursive Functions*. arXiv preprint arXiv:1810.08380, 2018.
* [Odifreddi1989] Odifreddi, Piergiorgio. *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers, Vol. I*. Springer-Verlag, 1989.
* [Soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
* [Gu2015] Gu, Yi-Zhi. *Turing Degrees*. Institute for Advanced Study, 2015.

### Tags

Computability, Oracle, Turing Degrees, Reducibility, Equivalence Relation

### CODE REVIEW

File: Mathlib/Computability/TuringDegrees.lean [hunk 1]
```diff
@@ -0,0 +1,337 @@
...
+/--
+Custom infix notation for `turing_equivalent`.
+-/
+infix:50 " ≡ᵀ " => turing_equivalent
+
+/--
+A partial function `f` is partial recursive if and only if
+it is recursive in the constant zero function.
+-/
+lemma partrec_iff_partrec_in_zero
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:111]: Perhaps the definition of `Nat.Partrec` should be changed to this, otherwise there's unnecessary duplication.

File: Mathlib/Computability/TuringDegrees.lean [hunk 2]
```diff
@@ -0,0 +1,337 @@
...
+          h (Nat.pair a (Nat.pair y i))))
+  | rfind {f : ℕ →. ℕ} (hf : RecursiveIn g f) :
+      RecursiveIn g (fun a =>
+        Nat.rfind (fun n => (fun m => m = 0) <$> f (Nat.pair a n)))
+
+/--
+`f` is Turing reducible to `g` if `f` is recursive in `g`.
+-/
+def turing_reducible (f g : ℕ →. ℕ) : Prop :=
+  RecursiveIn g f
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:89]: Is this definition needed? Can't you directly use `RecursiveIn`?

File: Mathlib/Computability/TuringDegrees.lean [hunk 3]
```diff
@@ -0,0 +1,337 @@
...
+/--
+Custom infix notation for `turing_reducible`.
+-/
+infix:50 " ≤ᵀ " => turing_reducible
+
+/--
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
+-/
+def turing_equivalent (f g : ℕ →. ℕ) : Prop :=
+  f ≤ᵀ g ∧ g ≤ᵀ f
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:100]: Another potential spelling is `AntisymmRel RecursiveIn`, and then you get that this is an equivalence relation from showing that `RecursiveIn` is a preorder

File: Mathlib/Computability/TuringDegrees.lean [hunk 4]
```diff
@@ -0,0 +1,337 @@
...
+infix:50 " ≡ᵀ " => turing_equivalent
+
+/--
+A partial function `f` is partial recursive if and only if
+it is recursive in the constant zero function.
+-/
+lemma partrec_iff_partrec_in_zero
+  (f : ℕ →. ℕ) : Nat.Partrec f ↔ RecursiveIn (fun _ => pure 0) f := by
+  constructor
+  { intro pF
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:114]: Mathlib style uses focusing dots instead of braces
```suggestion
  · intro pF
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 5]
```diff
@@ -0,0 +1,337 @@
...
+    case right =>
+      apply RecursiveIn.right
+    case pair _ _ _ _ ih1 ih2 =>
+      apply RecursiveIn.pair ih1 ih2
+    case comp _ _ _ _ ih1 ih2 =>
+      apply RecursiveIn.comp ih1 ih2
+    case prec _ _ _ _ ih1 ih2 =>
+      apply RecursiveIn.prec ih1 ih2
+    case rfind _ _ ih =>
+      apply RecursiveIn.rfind ih }
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:178]: This duplicates `partrec_iff_partrec_in_zero`, perhaps first prove `Nat.Partrec f -> ∀ g, RecursiveIn g f` and `RecursiveIn (fun _ => pure 0) f -> Nat.Partrec f` and conclude both iffs from these two implications?

File: Mathlib/Computability/TuringDegrees.lean [hunk 6]
```diff
@@ -0,0 +1,337 @@
...
+/--
+The Turing degrees as the set of equivalence classes under Turing equivalence.
+-/
+def TuringDegree :=
+  Quot turing_equivalent
+
+/--
+The `join` function combines two partial functions `f` and `g` into a single partial function.
+It maps even numbers to the result of `f` applied to half the number,
+and odd numbers to the result of `g` applied to half the number.
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:262]: This docstring doesn't look accurate - it doesn't describe the `.map (fun x => 2 * x)` on the result of `f` and the `.map (fun y => 2 * y + 1)` on the result of `g`.

File: Mathlib/Computability/TuringDegrees.lean [hunk 7]
```diff
@@ -0,0 +1,337 @@
...
+-/
+def join (f g : ℕ →. ℕ) : ℕ →. ℕ :=
+  fun n =>
+    if n % 2 = 0 then
+      (f (n / 2)).map (fun x => 2 * x)
+    else
+      (g (n / 2)).map (fun y => 2 * y + 1)
+
+/-- Join notation `f ⊔ g` is the "join" of partial functions `f` and `g`. -/
+infix:99 "⊔" => join
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:272]: This collides with the notation for `sup`.

File: Mathlib/Computability/TuringDegrees.lean [hunk 8]
```diff
@@ -0,0 +1,337 @@
...
+    refl := turing_equivalent_refl,
+    symm := turing_equivalent_symm,
+    trans := @turing_equivalent_trans
+  }
+
+/--
+The Turing degrees as the set of equivalence classes under Turing equivalence.
+-/
+def TuringDegree :=
+  Quot turing_equivalent
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:257]: This can be `Antisymmetrization _ turing_equivalent` ([Antisymmetrization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Antisymmetrization.html#Antisymmetrization)). This also automatically gives a `PartialOrder` from [instPartialOrderAntisymmetrization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Antisymmetrization.html#instPartialOrderAntisymmetrization)

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean:111]: Going to add an alternative definition, Partrec_0, defined in this way

File: Mathlib/Computability/TuringDegrees.lean (hunk 2 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean:89]: Having this as shorthand does make things convenient. Do you think it's necessary to remove?

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (Command-Master) [reply Mathlib/Computability/TuringDegrees.lean:111]: That's not a good solution, it would just mean we have two duplicate definitions

File: Mathlib/Computability/TuringDegrees.lean (hunk 2 above)
Comment (Command-Master) [reply Mathlib/Computability/TuringDegrees.lean:89]: I think in the long run either it won't be convenient because either stuff will have to be duplicated with `turing_reducible` and `RecursiveIn`, or everything will use one of these, and then you might as well only define it

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean]: Fixed in the latest push

File: Mathlib/Computability/TuringDegrees.lean (hunk 2 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean]: Fixed in the latest push, thank you

File: Mathlib/Computability/TuringDegrees.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean]: Is it best to just remove this then? I don't want to mess too much with the existing computability set up. I figured these could be useful lemmas though.

File: Mathlib/Computability/TuringDegrees.lean [hunk 9]
```diff
@@ -0,0 +1,354 @@
...
+  · exact partrec_implies_recursive_in_everything f
+  · intro H
+    have lem : RecursiveIn f (fun _ => Part.some 0) := H (fun _ => Part.some 0)
+    have lem : Nat.Partrec f := partrec_in_zero_implies_partrec f lem
+    exact lem
+
+/--
+Proof that `turing_reducible` is reflexive.
+-/
+theorem turing_reducible_refl (f : ℕ →. ℕ) : RecursiveIn f f :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:182]: The name of the type here seems out of sync with the theorem names. I can't comment on which of the two is better.

Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean]: Just fixed naming discrepancies in latest commit

File: Mathlib/Computability/TuringDegrees.lean [hunk 10]
```diff
@@ -0,0 +1,355 @@
...
+  · exact partrec_implies_recursive_in_everything f
+  · intro H
+    have lem : RecursiveIn f (fun _ => Part.some 0) := H (fun _ => Part.some 0)
+    have lem : Nat.Partrec f := partrec_in_zero_implies_partrec f lem
+    exact lem
+
+/--
+Proof that turing reducibility is reflexive.
+-/
+theorem recursive_in_refl (f : ℕ →. ℕ) : RecursiveIn f f :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:183]:
```suggestion
theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
```
lets you write `.refl _` in some contexts

File: Mathlib/Computability/TuringDegrees.lean [hunk 11]
```diff
@@ -0,0 +1,355 @@
...
+          h (Nat.pair a (Nat.pair y i)))) g
+  | rfind {f g : ℕ →. ℕ} (hf : RecursiveIn f g) :
+      RecursiveIn (fun a =>
+        Nat.rfind (fun n => (fun m => m = 0) <$> f (Nat.pair a n))) g
+
+
+/--
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
+-/
+def turing_equivalent (f g : ℕ →. ℕ) : Prop :=
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegrees.lean:91]:
```suggestion
def TuringEquivalent (f g : ℕ →. ℕ) : Prop :=
```
as this is a `Prop`. The lemmas about it should either be called `TuringEquivalent.foo` or `turingEquivalent_foo`.

File: Mathlib/Computability/TuringDegrees.lean [hunk 12]
```diff
@@ -0,0 +1,355 @@
...
+every partial function `g`.
+-/
+theorem partrec_iff_partrec_in_everything
+  (f : ℕ →. ℕ) : Nat.Partrec f ↔ (∀ g, RecursiveIn f g) := by
+  constructor
+  · exact partrec_implies_recursive_in_everything f
+  · intro H
+    have lem : RecursiveIn f (fun _ => Part.some 0) := H (fun _ => Part.some 0)
+    have lem : Nat.Partrec f := partrec_in_zero_implies_partrec f lem
+    exact lem
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:178]: This is mostly stylistic, but this can be golfed to
```suggestion
theorem partrec_iff_partrec_in_everything (f : ℕ →. ℕ) : Nat.Partrec f ↔ ∀ g, RecursiveIn f g :=
  ⟨(·.recursiveIn), (· _ |>.partrec_of_zero)⟩
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 13]
```diff
@@ -0,0 +1,355 @@
...
+-/
+theorem RecursiveIn.refl (f : ℕ →. ℕ) : RecursiveIn f f :=
+  RecursiveIn.oracle
+
+/--
+Proof that `turing_equivalent` is reflexive.
+-/
+@[refl]
+theorem TuringEquivalent.refl (f : ℕ →. ℕ) : f ≡ᵀ f :=
+  ⟨RecursiveIn.refl f, RecursiveIn.refl f⟩
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:191]: If you provide an `IsRefl` instance for `RecursiveIn` this can be [antisymmRel_refl](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Antisymmetrization.html#antisymmRel_refl)

File: Mathlib/Computability/TuringDegrees.lean [hunk 14]
```diff
@@ -0,0 +1,355 @@
...
+
+/--
+Proof that `turing_equivalent` is symmetric.
+-/
+@[symm]
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
+  ⟨h.2, h.1⟩
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:198]: This can be [AntisymmRel.symm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Antisymmetrization.html#AntisymmRel.symm)

File: Mathlib/Computability/TuringDegrees.lean [hunk 15]
```diff
@@ -0,0 +1,355 @@
...
+          h (Nat.pair a (Nat.pair y i)))) g
+  | rfind {f g : ℕ →. ℕ} (hf : RecursiveIn f g) :
+      RecursiveIn (fun a =>
+        Nat.rfind (fun n => (fun m => m = 0) <$> f (Nat.pair a n))) g
+
+
+/--
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
+-/
+def TuringEquivalent (f g : ℕ →. ℕ) : Prop :=
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:91]: Perhaps this should be an `abbrev` instead of a `def`?

File: Mathlib/Computability/TuringDegrees.lean [hunk 16]
```diff
@@ -0,0 +1,355 @@
...
+Instance declaring that `RecursiveIn` is a preorder.
+-/
+instance : IsPreorder (ℕ →. ℕ) RecursiveIn where
+  refl := RecursiveIn.refl
+  trans := @RecursiveIn.trans
+
+/--
+The Turing degrees as the set of equivalence classes under Turing equivalence.
+-/
+def TuringDegree :=
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:269]: This should be an `abbrev`, not a `def`

File: Mathlib/Computability/TuringDegrees.lean [hunk 17]
```diff
@@ -0,0 +1,355 @@
...
+  le_antisymm := by
+    apply Quot.ind
+    intro a
+    apply Quot.ind
+    intro b
+    intros aRedb bReda
+    apply Quot.sound
+    constructor
+    · exact aRedb
+    · exact bReda
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:355]: All of this can be rewritten to use existing `Antisymmetrization` stuff, like
```lean
instance : PartialOrder TuringDegree :=
  @instPartialOrderAntisymmetrization (ℕ →. ℕ)
    {le := RecursiveIn, le_refl := .refl, le_trans _ _ _ := RecursiveIn.trans}
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 18]
```diff
@@ -0,0 +1,355 @@
...
+    case prec f' h' _ _ hf_ih hh_ih =>
+      apply RecursiveIn.prec
+      · apply hf_ih
+        apply hh
+      · apply hh_ih
+        apply hh
+    case rfind f' _ hf_ih =>
+      apply RecursiveIn.rfind
+      · apply hf_ih
+        apply hh
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:239]: The indentation of this is incorrect, it should be indented by two spaces

File: Mathlib/Computability/TuringDegrees.lean [hunk 19]
```diff
@@ -0,0 +1,355 @@
...
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
+  ⟨h.2, h.1⟩
+
+/--
+Proof that turing reducibility is transitive.
+-/
+@[trans]
+theorem RecursiveIn.trans {f g h : ℕ →. ℕ} :
+  RecursiveIn f g → RecursiveIn g h → RecursiveIn f h := by
+    intro hg hh
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:206]: In general instead of writing function types and then using `intro` you can introduce values directly as arguments - often this is cleaner.
```suggestion
@[trans]
theorem RecursiveIn.trans {f g h : ℕ →. ℕ} (hg : RecursiveIn f g) (hh : RecursiveIn g h) :
    RecursiveIn f h := by
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 20]
```diff
@@ -0,0 +1,355 @@
...
+      · apply hf_ih
+        apply hh
+
+/--
+Proof that `turing_equivalent` is transitive.
+-/
+theorem TuringEquivalent.trans :
+  Transitive TuringEquivalent :=
+  fun _ _ _ ⟨fg₁, fg₂⟩ ⟨gh₁, gh₂⟩ =>
+    ⟨RecursiveIn.trans fg₁ gh₁, RecursiveIn.trans gh₂ fg₂⟩
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:247]: If you provide an `IsTrans` instance for `RecursiveIn` this can be [AntisymmRel.trans](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Antisymmetrization.html#AntisymmRel.trans)

File: Mathlib/Computability/TuringDegrees.lean [hunk 21]
```diff
@@ -0,0 +1,355 @@
...
+
+/--
+Instance declaring that `turing_equivalent` is an equivalence relation.
+-/
+instance : Equivalence TuringEquivalent :=
+  {
+    refl := TuringEquivalent.refl,
+    symm := TuringEquivalent.symm,
+    trans := @TuringEquivalent.trans
+  }
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:257]: If you provide an `IsPreorder` instance for `RecursiveIn` this can be `AntisymmRel.setoid.iseqv`

File: Mathlib/Computability/TuringDegrees.lean [hunk 22]
```diff
@@ -0,0 +1,303 @@
...
+
+Equivalently one can say that `f` is turing reducible to `g` when `f` is recursive in `g`.
+-/
+
+inductive RecursiveIn : (ℕ →. ℕ) → (ℕ →. ℕ) → Prop
+  | zero {g} : RecursiveIn (fun _ => 0) g
+  | succ {g} : RecursiveIn Nat.succ g
+  | left {g} : RecursiveIn (fun n => (Nat.unpair n).1) g
+  | right {g} : RecursiveIn (fun n => (Nat.unpair n).2) g
+  | oracle {g} : RecursiveIn g g
```
Comment (Command-Master) [inline Mathlib/Computability/TuringDegrees.lean:73]: Perhaps this will be easier to use with `g` as an explicit parameter?

**Comment by Command-Master** [comment]
Due to limitations with Mathlib's CI there is a problem with merging PRs from forks - could you please request write access to the mathlib repository on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/github.20permission) and move this contribution to a branch of it, as described in [here](https://leanprover-community.github.io/contribute/index.html)? Thanks!

File: Mathlib/Computability/TuringDegrees.lean [hunk 23]
```diff
@@ -0,0 +1,303 @@
...
+-/
+def join (f g : ℕ →. ℕ) : ℕ →. ℕ :=
+  fun n =>
+    if n % 2 = 0 then
+      (f (n / 2)).map (fun x => 2 * x)
+    else
+      (g (n / 2)).map (fun y => 2 * y + 1)
+
+/-- Join notation `f ⊕ g` is the "join" of partial functions `f` and `g`. -/
+infix:99 "⊕" => join
```
[the remark this answers is not in the document]
Comment (tannerduve) [reply Mathlib/Computability/TuringDegrees.lean:303]: Yeah, this isn't needed in this PR, I'll remove.

**Comment by eric-wieser** [comment]
I've just noticed that this PR comes from a fork, as opposed to a branch. Unfortunately our CI cannot support this setup, so please follow the contribution guide to get access to non-master branches.

**Comment by tannerduve** [comment]
https://github.com/leanprover-community/mathlib4/pull/20301 here is the new PR. thank you guys

**Comment by eric-wieser** [comment]
Duplicate of #20301
